US07585881B2
(+)-(1R)-1-[3-(3-chlorophenyl)-1,2,4-oxadiazol-5-yl]ethanol
A solution of 1.53 g (18.6 mmol) sodium acetate in water (12 mL) was added to 3.88 g (16.0 mmol) 3-chloro-N′-{[(2R)-2-hydroxypropanoyl]oxy}benzenecarboximidamide dissolved in ethanol (50 mL). The mixture was heated to 90° C. for 5.5 h and then evaporated to dryness and purified via flash chromatography (Hep/EA=9/1) to give after drying 2.3 g (65%) of the title compound. 1H NMR: 8.09 (t, 1 H), 7.97 (td, 1 H), 7.45-7.51 (m, 1 H), 7.42 (t, 1 H), 5.15 (qd, 1 H), 2.57 (d, 1 H), 1.72 (d, 3 H)

reactant | sodium acetate | 18.6 mmol, 1.53 g | C(C)(=O)[O-].[Na+]
reactant | 3-chloro-N′-{[(2R)-2-hydroxypropanoyl]oxy}benzenecarboximidamide | 16.0 mmol, 3.88 g | ClC=1C=C(C=CC1)C(N)=NOC([C@@H](C)O)=O | C10H11ClN2O3
solvent | water | 12 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (+)-(1R)-1-[3-(3-chlorophenyl)-1,2,4-oxadiazol-5-yl]ethanol | ClC=1C=C(C=CC1)C1=NOC(=N1)[C@@H](C)O | C10H9ClN2O2
